US07396847B2
Methanesulfonic acid 3-(5-bromo-pyridin-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl ester
[3-(5-Bromo-pyridin-2-yl)-4,5-dihydro-isoxazol-5-yl]-methanol (38.8 g, 150.5 mmol) was added to anhydrous dichloromethane (200 ml) followed by addition of triethylamine (29.2 ml, 210.7 mmol). The solution was cooled to 0° C. followed by dropwise addition of methane sulfonyl chloride (12.3 ml, 180.6 mmol). The reaction was stirred for 2 hours at 0° C. and then aqueous sodium bicarbonate (100 ml) was added. After further extraction with dichloromethane (2×100 ml), the organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give the desired product (30.5 g).

reactant | [3-(5-Bromo-pyridin-2-yl)-4,5-dihydro-isoxazol-5-yl]-methanol | 150.5 mmol, 38.8 g | BrC=1C=CC(=NC1)C1=NOC(C1)CO | C9H9BrN2O2
reactant | triethylamine | 210.7 mmol, 29.2 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 180.6 mmol, 12.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 3-(5-bromo-pyridin-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl ester | 30.5 g | BrC=1C=CC(=NC1)C1=NOC(C1)COS(=O)(=O)C | C10H11BrN2O4S
